US08197793B2
b) Synthesis of 4-fluoromethylbenzaldehyde—Compound 29
KF (2.7 mg, 0.047 mmol) and kryptofix 222 (17.6 mg, 0.047 mmol) were dissolved in acetonitrile (1 ml) and added to (4-formylphenyl)methyl methanesulfonate (10 mg, 0.047 mmol) in acetonitrile (1 ml). The reaction mixture was heated to 65 degrees for 10 minutes. The crude product was purified using a silica short column and diethyl ether. (Analytical HPLC: column Phenomenex Luna 00B-4251-E0, solvents: A=water/0.1% TFA and B=CH3CN/0.1% TFA; gradient 5-50% B over 10 min; flow 2.0 ml/minute; retention time 5.1 minutes detected at 214 and 254 nm).

reactant | KF | 0.047 mmol, 2.7 mg | [F-].[K+]
reactant | kryptofix 222 | 0.047 mmol, 17.6 mg | C1COCCOCCN2CCOCCOCCN1CCOCCOCC2 | C18H36N2O6
reactant | (4-formylphenyl)methyl methanesulfonate | 0.047 mmol, 10 mg | CS(=O)(=O)OCC1=CC=C(C=C1)C=O | C9H10O4S
solvent | acetonitrile | 1 ml | C(C)#N | C2H3N
solvent | acetonitrile | 1 ml | C(C)#N | C2H3N
product | 4-fluoromethylbenzaldehyde | FCC1=CC=C(C=O)C=C1 | C8H7FO
